US07250511B2
2-(2,2-Dimethylpropionyloxymethyl)-3,4,7,8-tetrahydro-6H-cyclopenta-[g]quinazolin4one
2-Hydroxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4-one (1.0 g, 4.6 mmol), triethylamine (0.77 ml, 5.6 mmol), DMAP (50 mg, 0.4 mmol) and anhydrous CH2Cl2 (50 ml) were mixed in a flask under argon. Pivalic anhydride (1.2 ml, 6.0 mmol) was added dropwise and the suspension stirred at room temperature under argon for 5 h. The solvent was removed in vacuo and the residue partitioned between EtOAc (100 ml) and saturated aqueous NaHCO3 (100 ml). The organic extract was washed with saturated aqueous NaHCO3 (70 ml), water (70 ml), brine (70 ml), dried (Na2SO4) and the solvent removed in vacuo. The residue was triturated with hexane (60 ml) and the product collected by filtration as a yellow solid (1.21 g, 87%); m.p. 185-190° C.; 1H-NMR (DMSO-d6) δ 1.22 (s, 9H, CMe3), 2.07 (quin, J=7.4 Hz, 2H, 7-H), 2.98 (q, J=5.72 Hz, 4H, 6-H and 8-H), 4.94 (s, 2H, 2-CH2), 7.42 (s, 1H, 9-H), 7.92 (s, 1H, 5-H), 12.20 (br, 1H, NH); MS (FAB, m/z): Found 301 [(+H)+, 100%]; HMS: measured 301.1539; calculated for C17H21N2O3 (M+H)+: 301.1552; Found C, 67.65; H, 6.54; N, 9.54. C17H21N2O3 requires C, 67.98; H, 6.71; N, 9.33%.

reactant | 2-Hydroxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4-one | 4.6 mmol, 1.0 g | OCC1=NC2=CC3=C(C=C2C(N1)=O)CCC3 | C12H12N2O2
reactant | triethylamine | 5.6 mmol, 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | Pivalic anhydride | 6.0 mmol, 1.2 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
catalyst | DMAP | 0.4 mmol, 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,2-Dimethylpropionyloxymethyl)-3,4,7,8-tetrahydro-6H-cyclopenta-[g]quinazolin4one | CC(C(=O)OCC1=NC2=CC3=C(C=C2C(N1)=O)CCC3)(C)C | C17H20N2O3
